US05145600
1. Preparation of di-n-Butylmagnesium-Magnesium Chloride
A volume of 23.7 ml (20.8 g, 0.225 moles) of n-butyl chloride was added gradually to a slurry of 6.8 g (0.25 g moles) of magnesium powder in 175 ml of methylcyclohexane at reflux (100° C.). After addition was complete, the mixture was refluxed for an additional 1-2 hours and allowed to cool to room temperature.

reactant | n-butyl chloride | 0.225 moles, 23.7 ml, 20.8 g | C(CCC)Cl | C4H9Cl
reactant | magnesium | 6.8 g | [Mg] | Mg
solvent | methylcyclohexane | 175 ml | CC1CCCCC1 | C7H14
product | di-n-Butylmagnesium-Magnesium Chloride | [Cl-].[Mg+2].C(CCC)[Mg]CCCC.[Cl-] | InChI=1S/2C4H9.2ClH.2Mg/c2*1-3-4-2;;;;/h2*1,3-4H2,2H3;2*1H;;/q;;;;;+2/p-2
